US08877774B2
Step 6. 3-(1,3-dioxolan-2-yl)propyl 4-(5-((3-(amino(phenyl)methyl)phenoxy)methyl)-1,2,4-oxadiazol-3-yl)benzoate hydrochloride
Hydrogen chloride in dioxan (4.0 M, 5 mL, 24 mmol) was added to 3-(1,3-dioxolan-2-yl)propyl 4-(5-((3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)-phenoxy)methyl)-1,2,4-oxadiazol-3-yl)benzoate (0.237 g, 0.41 mmol), and the resultant solution was stirred at ambient temperature for 2 hours. The solvent was evaporated at reduced pressure to afford the title compound (0.212 g, 100%).

reactant | Hydrogen chloride | Cl | ClH
reactant | dioxan | 24 mmol, 4.0 M, 5 mL | O1CCOCC1 | C4H8O2
reactant | 3-(1,3-dioxolan-2-yl)propyl 4-(5-((3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)-phenoxy)methyl)-1,2,4-oxadiazol-3-yl)benzoate | 0.41 mmol, 0.237 g | C(C)(C)(C)OC(=O)NC(C=1C=C(OCC2=NC(=NO2)C2=CC=C(C(=O)OCCCC3OCCO3)C=C2)C=CC1)C1=CC=CC=C1 | C34H37N3O8
product | 3-(1,3-dioxolan-2-yl)propyl 4-(5-((3-(amino(phenyl)methyl)phenoxy)methyl)-1,2,4-oxadiazol-3-yl)benzoate hydrochloride | 0.212 g, 100% | Cl.NC(C=1C=C(OCC2=NC(=NO2)C2=CC=C(C(=O)OCCCC3OCCO3)C=C2)C=CC1)C1=CC=CC=C1 | InChI=1S/C29H29N3O6.ClH/c30-27(20-6-2-1-3-7-20)23-8-4-9-24(18-23)37-19-25-31-28(32-38-25)21-11-13-22(14-12-21)29(33)36-15-5-10-26-34-16-17-35-26;/h1-4,6-9,11-14,18,26-27H,5,10,15-17,19,30H2;1H
